Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ found unresponsive at ___ station sitting comfortably at a 
bench. Smelled of EtOH. Initial fingerstick glucose 65. No signs 
of trauma. The patient was responding to painful stimuli only. 
Arrived with oral airway in place.  
.  
In ED VS: 80 104/64 16 100% RA. On exam, lethargic with miotic 
pupils responding to painful stimuli, nasal trumpet placed, 
maintained airway. Localizes pain, moves his extremities 
symmetrically. Labs demonstrated elevated creatinine of 2.4, 
bicarb 15, with gap of 27. WBC 13.5. U/A nl. serum etoh 381. CXR 
clear. Head CT no acute process. EKG: NSR 70, LAD, less than ___levations in aVR, V1 and V2. T wave inversions in I and 
V4 to V6. Given narcan with no change in mental status. Given 
IVF, 4L NS, on recheck gap down to 19, cr improved to 1.9. VS on 
transfer 97.1-78-20-117/68-100ra.  
.  
On the floor he is arousable, disoriented and smells of etoh.  
.  
ROS: Unable to obtain
 
Past Medical History:
LVH  
CKD (baseline creatinine 1.11 ___
CAD (NSTEMI subendocardial anterioseptal MI ___
HTN  
Chronic anemia
HLD
Gout
ETOH abuse for years 
Fall
Non compliance
 
Social History:
___
Family History:
No known history of CAD, DM.
 
Physical Exam:
ON ADMISSION:
VS: 97.6 130/77 86 16 100/ra  
GENERAL: Smells like alcohol. Arousable.  
HEENT: EOMI, poor dentition  
NECK: Supple  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat anterior  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 1+ peripheral pulses.  
NEURO: Awake, no facial droop, speech clear, no pronator drift, 
moves all extremities  

ON DISCHARGE:
VS: 99.5 122/58 82 18 97% RA  
GENERAL: Alert, oriented to person, place 
HEENT: EOMI, poor dentition  
NECK: Supple  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTAB, no rhonchi, rales, wheezes
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 1+ peripheral pulses.  
NEURO: Awake and alert, CNII-XII grossly intact, speech clear, 
no pronator drift, moves all extremities  
 
Pertinent Results:
ADMISSION LABS:

___ 05:20PM   WBC-13.1* RBC-4.65 HGB-13.7* HCT-42.1 MCV-90 
MCH-29.4 MCHC-32.5 RDW-14.8
___ 05:20PM   NEUTS-81.6* LYMPHS-15.4* MONOS-1.5* EOS-0.9 
BASOS-0.5
___ 05:20PM   PLT COUNT-291
___ 05:20PM   GLUCOSE-57* UREA N-38* CREAT-2.4* SODIUM-143 
POTASSIUM-5.7* CHLORIDE-101 TOTAL CO2-15* ANION GAP-33*
___ 11:14PM   GLUCOSE-84 NA+-144 K+-4.0 CL--111 TCO2-14*
___ 11:20PM   CALCIUM-7.8* PHOSPHATE-6.0* MAGNESIUM-2.0
___ 05:20PM   cTropnT-<0.01
___ 11:20PM   cTropnT-<0.01
___ 05:20PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:20PM   OSMOLAL-401*
___ 01:15AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 01:15AM URINE  RBC-<1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:15AM URINE  HYALINE-3*
___ 01:15AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG

STUDIES:
___ EKG: SR at 81. LAD and LVH. <1 mm ST/J point elevations 
in V1-V3, and aVR. TWI in I, II, aVL, V5-V6. No prior for 
comparison

___ CXR: The lungs are clear without consolidation or edema. 
There is mild aortic tortuosity. The cardiac silhouette is top 
normal for size. No 
effusion or pneumothorax is noted. No displaced fractures are 
evident. 
  
IMPRESSION: No acute pulmonary process. 

___ CT HEAD: There is no evidence of intracranial hemorrhage, 
edema, shift of normally midline structures, hydrocephalus, or 
acute large vascular territorial infarction. Prominence of the 
ventricles and sulci are consistent with global cerebral 
atrophy, greater than expected given the ___ age.  
Periventricular white matter hypodensities are consistent with 
mild chronic small vessel ischemic disease. The visualized 
portions of the paranasal sinuses and mastoid air cells are well 
aerated. The imaged osseous structures are unremarkable. 
  
IMPRESSION: 
1. No acute intracranial process. 
2. Global cerebral atrophy is more than expected given the 
___ age. 

___ CXR: As compared to the previous radiograph, the lung 
volumes have 
slightly decreased. As a consequence, there is minimal crowding 
of vascular structures at the lung bases. However, no focal 
parenchymal opacity suggesting pneumonia is detected. No pleural 
effusions. Borderline size of the cardiac silhouette without 
evidence of pulmonary edema. 

DISCHARGE LABS:

___ 07:20AM BLOOD WBC-8.8 RBC-3.74* Hgb-11.1* Hct-32.4* 
MCV-87 MCH-29.6 MCHC-34.1 RDW-15.0 Plt ___
___ 07:20AM BLOOD Glucose-111* UreaN-20 Creat-1.1 Na-138 
K-4.0 Cl-99 HCO3-26 AnGap-___ year old M found unresponsive at T stop, admitted with EtOH 
level of 381, ___, and closing anion gap.  
.  
# Acute Renal Failure: 
Patient presented with an elevated creatinine to 2.4. Per 
primary provider at ___ baseline 
is 1.1. ___ was pre-renal in etiology and improved to baseline 
with fluid rehydration. 
.  
# Alcohol Dependence with Acute Intoxication: 
Pt's unresponsiveness was initially due to alcohol intoxication. 
He had no focal signs on neuro exam and CT head was negative. 
Acute intoxication resolved and patient was monitored for 
withdrawal on CIWA scale with valium. He denied history of 
seizure but did report past history of "bad dreams" and DTs in 
___. He was given thiamine 100 mg PO daily and a multivitamin. 
He did not show any signs of withdrawal during hospitalization 
with CIWA scores consistently below 5. 
.  
# Anion Gap Acidosis: 
Patient presented with elevated anion gap and decreased bicarb. 
This was attributed to alcoholic/fasting ketoacidosis with 
possible contribution from mild lactic acidosis in the setting 
of dehydration. He had no ketonuria or serum ketones, but these 
levels were checked after patient was given fluids and glucose 
on arrival to ED. Serum osmolality was checked and could be 
accounted for by his alcohol level. Gap closed with fluid 
rehydration. 
.
# Benign Hypertension: 
Patient developed hypertension with systolics in the 200s. He 
was asymptomatic. Baseline is unclear, but he reports ususally 
130s-150s. He was continued on his home metoprolol and his 
lisinopril was uptitrated from 20 to 40 mg daily. He was also 
started on nifedipine with significant improvement in his blood 
pressures- he was discharged on this medication. His blood 
pressure control should be followed up in the outpatient 
setting.  
.  
# CAD Native Vessel: 
___ NP at ___, patient has a h/o 
CAD s/p anteroseptal NSTEMI in ___. No baseline EKG in our 
system, but EKG here showed NSR 81, LAD, less than ___levations in aVR, V1 and V2 and TWI I, II, V4-V6. Non specific 
changes and patient asymptomatic while in house. Did note some 
chest pain a week prior to admission while drinking alcohol. Was 
ruled out for acute MI and continued on aspirin, metoprolol, 
lisinopril, and simvastatin. Patient is a poor historian, but 
given remote chest pain, may benefit from outpatient stress 
test.
.  
# Leukocytosis:
 Patient w/ no localizing symptoms for infection, CXR, U/A 
normal. Likely a stress response as trended down on repeat 
testing.
.
# Right rib pain: 
On discharge, patient complained of mild R rib pain that was 
reproducible on palpation. Patient was not hypoxic, or 
tachycardic, and had an ambulatory O2 sat between 94 and 97%. 
CXR showed no evidence of rib fractures. Likely musculoskeletal 
in nature, but if persists, should be further evaluated.

Full Code
 
Medications on Admission:
(per primary provider ___ at ___; 
unclear how compliant patient is as he was unable to recall 
names of ___
ASA 325 
Metoprolol 200 
Simvastatin 20 
Lisinopril 20 
Colchicine PRN gout 
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*5 Tablet(s)* Refills:*0*
2. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*5 Tablet(s)* Refills:*0*
3. metoprolol succinate 200 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.
Disp:*5 Tablet Extended Release 24 hr(s)* Refills:*0*
4. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day for 
5 days.
Disp:*5 Tablet(s)* Refills:*0*
5. nifedipine 60 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).
Disp:*30 Tablet Extended Release(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Alcohol Intoxication
Acute Kidney Injury

Secondary:
Coronary Artery Disease
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for alcohol intoxication and 
acute kidney injury. You were treated with IV fluids and your 
kidney function improved. You were seen by a social worker who 
provided you with resources regarding alcohol cessation. We 
recommend that you stop drinking as it is harming your health. 
Your dehydration, blood acid levels all improved with IV fluids 
and you are now medically clear to leave the hospital. We also 
recommend that you follow up with ___ your primary 
provider (see below). 

We have made the following changes to your medications:
- START taking nifedipine for your blood pressure

You had a low grade fever on the day of discharge. Your lab work 
was normal and there were no signs of infection on your CXR. You 
had no localizing symptoms of infection. If you develop worsened 
fevers, shortness of breath or any other symptoms that concern 
you, please call your doctor or return to the emergency room.

It was a pleasure taking care of you. We wish you a speedy 
recovery.
 
Followup Instructions:
___